US08957203B2
To a mixture of tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-hydroxy-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (150 mg, 0.246 mmol),1-chloro-6-methoxy-N,N-dimethylisoquinolin-3-amine (69.8 mg, 0.295 mmol), and potassium tert-butoxide (138 mg, 1.228 mmol) was added DMSO (5 mL) and then the mixture was sonicated for 15 min. The resulting solution was stirred for 4 h at room temperature. The reaction was quenched with water, acidified with 6 N HCl to pH=4, and extracted with EtOAc. The organic layer was collected, washed with brine, dried over MgSO4, filtered, and concentrated to give the crude tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-((3-(dimethylamino)-6-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate that was used in the next step as is. MS: MS m/z 811.6 (M++1).

reactant | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-hydroxy-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 0.246 mmol, 150 mg | O[C@@H]1C[C@@H]2N(C([C@H]([C@@H](CC(CC\C=C/[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3(CC3)C)=O)C)C)NC(OC(C)(C)C)=O)=O)C1 | C29H46N4O8S
reactant | 1-chloro-6-methoxy-N,N-dimethylisoquinolin-3-amine | 0.295 mmol, 69.8 mg | ClC1=NC(=CC2=CC(=CC=C12)OC)N(C)C | C12H13ClN2O
reactant | potassium tert-butoxide | 1.228 mmol, 138 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-((3-(dimethylamino)-6-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | CN(C=1N=C(C2=CC=C(C=C2C1)OC)O[C@@H]1C[C@@H]2N(C([C@H]([C@@H](CC(CC\C=C/[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3(CC3)C)=O)C)C)NC(OC(C)(C)C)=O)=O)C1)C | C41H58N6O9S
